US08372842B2
1.7M t-BuLi in heptane (1.23 mL, 2.09 mmol) was added to a solution of tert-butyl 4-(5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.50 g, 1.00 mmol) in THF (5 mL) at −78° C. The reaction was stirred at −78° C. for 30 minutes, and cyclobutanone (0.23 mL, 2.99 mmol) was added. The reaction mixture was allowed to warm to room temperature and stirred for 1 hour. Saturated NH4Cl (10 mL) was added, extracted with ethyl acetate (30 mL), washed with brine, dried (sodium sulfate) and concentrated in vacuo. The residue was suspended in triethylsilane (2.31 g, 19.9 mmol), and TFA (2 mL) was added. After 1 hour, the solvent was removed, and the residue was dissolved in TFA (5 mL) and heated at 68° C. for 5 hours. The solvent was removed. The residue was dissolved in DCM (10 mL) and Boc2O (0.434 g, 1.99 mmol) was added. The reaction was stirred at room temperature for 1 hour. The solvent was removed. The residue was dissolved in THF (5 mL) and 2N LiOH in water (5 mL) was added. It was stirred at room temperature for 2 hours. Ethyl acetate (50 mL) was added. The organic layer was separated, washed with brine, dried (sodium sulfate) and concentrated in vacuo. The residue obtained was purified by flash chromatography on silica gel (hexane:ethyl acetate=1:1) to give a solid. It was dissolved in EtOH (10 mL), and 10% Pd/C (0.11 g, 0.10 mmol) was added. The mixture was charged with 50 psi hydrogen and shaken for 6 hours. The catalyst was removed by filtration and concentrated in vacuo. The residue obtained was purified by flash chromatography (hexane:ethyl acetate=1:1) to give tert-butyl 4-(5-cyclobutyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.14 g, 39%) as a solid. LCMS (APCI+) m/z 358(M+H)+.

reactant | t-BuLi | 1.7M | [Li]C(C)(C)C
reactant | heptane | 2.09 mmol, 1.23 mL | CCCCCCC | C7H16
reactant | tert-butyl 4-(5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 1.00 mmol, 0.50 g | BrC=1C(=C2C(=NC1)N(N=C2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C23H28BrN5O3
reactant | cyclobutanone | 2.99 mmol, 0.23 mL | C1(CCC1)=O | C4H6O
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | triethylsilane | 19.9 mmol, 2.31 g | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc2O | 1.99 mmol, 0.434 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 0.10 mmol, 0.11 g | [Pd] | Pd
product | tert-butyl 4-(5-cyclobutyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.14 g, 39% | C1(CCC1)C=1C(=C2C(=NC1)NN=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C19H27N5O2
